US04366316
(Step 1) To a solution of diphenylmethyl 2-(3-benzyl-7-oxo-2,6-diaza-4-oxabicyclo[3.2.0]hept-2-en-6-yl)-3-methyl-3-butenoate (4.6 g) in ethyl acetate (70 ml) are added 2.74 M-solution of hydrochloric acid in ethyl acetate (3.8 ml) and 1.47 M-solution of chlorine in carbon tetrachloride (12 ml), and the mixture is stirred at room temperature for 15 minutes. Then, aqueous 5% sodium thiosulfate (80 ml), sodium hydrogencarbonate (3.4 g) and acetone (240 g) are added to the reaction mixture, and the combined solution is kept at room temperature for 2.5 hours. The product is isolated by extracting with ethyl acetate, drying over sodium sulfate, and evaporating to yield diphenylmethyl 2-(3-benzyl-7-oxo-2,6-diaza-4-oxabicyclo-[3.2.0]hept-2-en-6-yl)-3-chloromethyl-3-butenoate (3.33 g), mp. 82°-83° C.

reactant | diphenylmethyl 2-(3-benzyl-7-oxo-2,6-diaza-4-oxabicyclo[3.2.0]hept-2-en-6-yl)-3-methyl-3-butenoate | 4.6 g | C(C1=CC=CC=C1)C1=NC2C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=C)C)=O | C29H26N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | chlorine | ClCl | Cl2
reactant | sodium thiosulfate | 80 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | 3.4 g | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3.8 ml | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 12 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetone | 240 g | CC(=O)C | C3H6O
product | diphenylmethyl 2-(3-benzyl-7-oxo-2,6-diaza-4-oxabicyclo-[3.2.0]hept-2-en-6-yl)-3-chloromethyl-3-butenoate | 3.33 g | C(C1=CC=CC=C1)C1=NC2C(N(C2O1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=C)CCl)=O | C29H25ClN2O4
